US08183241B2
In a 50 ml, three-necked flask fitted with a magnetic stirrer under inert atmosphere, 5-chloro-1H-indole x70 (1.13 g, 7.43 mmol) is dissolved in dry DMF (20 ml). At 0° C., NaH (327 mg, 8.18 mmol, 60% in mineral oil) is added and the mixture is stirred at this temperature for 0.3 h. A solution of 3-(chloromethyl)-2-fluoropyridine x71 (obtained from (2-fluoropyridin-3-yl)methanol and SOCl2 (1.3 g, 8.92 mmol)) in DMF (5 ml) is then added and stirring is continued for 0.5 h at 0° C. The reaction mixture is poured on ice and the aqueous phase is extracted three times with AcOEt. The combined organic phases are dried over MgSO4, filtered and concentrated. Purification by chromatography on silicagel (Hexane/AcOEt:9/1 (v/v)) affords 5-chloro-1-[(2-fluoropyridin-3-yl)methyl]-1H-indole x72 as a solid (1.13 g).

reactant | 5-chloro-1H-indole | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | NaH | 8.18 mmol, 327 mg | [H-].[Na+]
reactant | 3-(chloromethyl)-2-fluoropyridine | 8.92 mmol, 1.3 g | ClCC=1C(=NC=CC1)F | C6H5ClFN
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-chloro-1-[(2-fluoropyridin-3-yl)methyl]-1H-indole | Yield: 59% | ClC=1C=C2C=CN(C2=CC1)CC=1C(=NC=CC1)F | C14H10ClFN2
